US06451839B1
Part A. Preparation of N-(2-phenyl-phenylmethyl)-phthalimide
(2-Phenyl)-phenylmethyl bromide (6 g, 0.0243 mol) and potassium phthalimide (5 g, 0.0270 mol) were mixed together in dimethyl formamide at room temperature, stirred for 60 hrs, diluted with cold water, and the solid isolated by filtration. After washing with water, isopropyl alcohol, and hexane the white solid was vacuum dried to yield 6.9 g of the subtitled compound. Mass spectrum: 313

reactant | (2-Phenyl)-phenylmethyl bromide | 0.0243 mol, 6 g | C1(=CC=CC=C1)C1=C(C=CC=C1)CBr | C13H11Br
reactant | potassium phthalimide | 0.0270 mol, 5 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(2-phenyl-phenylmethyl)-phthalimide | 6.9 g | C1(=CC=CC=C1)C1=C(C=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C21H15NO2
